US09290490B2
To a solution of difluoroacetic anhydride (50 g, 287 mmol) in CH2Cl2 (300 mL) cooled to −20° C. was added DMAP (0.351 g, 2.87 mmol) followed by the addition of ethyl vinyl ether (13.8 mL, 144 mmol) at such a rate that the internal temperature did not exceed −10° C. After the addition was complete, the flask was stirred at 0° C. for 12 h before slowly warming to room temperature over 6 h. Water along with CH2Cl2 were added, the layers separated and the organic washed sequentially with aqueous saturated NaHCO3 and then brine. The organic layer was dried with MgSO4, filtered, concentrated in vacuo. The residue was subsequently taken up in EtOH (162 mL), immersed in an ice water bath and then urea (17.25 g, 287 mmol) was added followed by the addition of conc. HCl (43 mL) at such a rate that the internal temperature did not exceed 20° C. When the addition was complete, the cooling bath was removed and the resulting mixture stirred for 18 h before concentration in vacuo. EtOH was added and the mixture concentrated a second time, then EtOAc was added and the mixture was concentrated again (2×). The residue was diluted with EtOAc (100 mL) and the resulting heterogenous mixture stirred for 10 min and then the solvent decanted. This was repeated twice more, then the light brown solid was collected via filtration and dried under vacuum for 48 h before dilution with phosphous oxychloride (215 mL, 2310 mmol). The resulting suspension was heated to 105° C. for 90 min during which time it was observed to become homogenous. The reaction mixture was cooled to room temperature, poured carefully into a 4 L cooled flask containing 2 L of ice and a temperature probe. The mixture was stirred for 1 h until the exotherm had ceased at which time the contents were transferred to a separatory funnel with additional CH2Cl2. The layers were separated and the aqueous layer extracted with CH2Cl2 (2×), then the combined organics were dried with MgSO4, filtered and concentrated in vacuo (200 Torr, 40° C.) to an orange oil. The product was placed under vacuum for 1 min to yield 2-chloro-4-difluoromethyl-pyrimidine as a 62.5 wt % solution in CH2Cl2 as judged by 1H NMR). 1H NMR (600 MHz, CDCl3) δ 8.82 (d, J=5.0, 1H), 7.57 (d, J=5.0, 1H), 6.51 (t, J=54.4, 1H).

reactant | difluoroacetic anhydride | 287 mmol, 50 g | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | ethyl vinyl ether | 144 mmol, 13.8 mL | C(=C)OCC | C4H8O
reactant | urea | 287 mmol, 17.25 g | NC(=O)N | CH4N2O
reactant | HCl | 43 mL | Cl | ClH
reactant | oxychloride | 2310 mmol, 215 mL | O(Cl)Cl | Cl2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.87 mmol, 0.351 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | O | H2O
product | 2-chloro-4-difluoromethyl-pyrimidine | ClC1=NC=CC(=N1)C(F)F | C5H3ClF2N2
